US05225590
50.45 g of 1,3-dipivaloyl glycerol was dissolved in 200 ml of methoxymethyl acetate. After the addition of 2.5 g of p-toluenesulfonic acid monohydrate, the mixture was stirred for 1 hr then diluted with 200 ml of hexane and washed twice with 200 ml saturated aqueous sodium carbonate, once with aqueous NaCl solutions, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford 1,3-dipivaloyl-2-methoxymethyl glycerol as a colorless oil.

reactant | 1,3-dipivaloyl glycerol | 50.45 g | C(C(C)(C)C)(=O)OCC(O)COC(C(C)(C)C)=O | C13H24O5
reactant | p-toluenesulfonic acid monohydrate | 2.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methoxymethyl acetate | 200 ml | C(C)(=O)OCOC | C4H8O3
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1,3-dipivaloyl-2-methoxymethyl glycerol | C(C(C)(C)C)(=O)OCC(OCOC)COC(C(C)(C)C)=O | C15H28O6
